US07026321B2
To a solution of 4-tolualdehyde (600 mg, 5 mmol) in tetrahydrofuran (3 ml) was added hydroxylamine hydrochloride (700 mg, 10 mmol) and triethylamine (1.4 ml, 10 mmol). The reaction was subjected to microwave; absorbance normal; temp: 150° C.; time; 600 (s). The solid material was filtered off, and solvent removed from the filtrate under reduced pressure. The residue was purified using column chromatography (2:1 Hexanes:Ethyl Acetate) to provide (hydroxyimino)(4-methylphenyl)methane (500 mg).

reactant | 4-tolualdehyde | 5 mmol, 600 mg | C1(=CC=C(C=C1)C=O)C | C8H8O
reactant | hydroxylamine hydrochloride | 10 mmol, 700 mg | Cl.NO
reactant | triethylamine | 10 mmol, 1.4 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | (hydroxyimino)(4-methylphenyl)methane | 500 mg | ON=CC1=CC=C(C=C1)C | C8H9NO
